US04301283
Preparation and isolation of 2-oxo-dihydrobenzo[d][1,3]oxazine.
143 g (0.948 moles) of 2-carbamoyl-benzyl alcohol, 2.3 g (0.0226 moles) of sodium bromide, 6.7 g of Adogen 464 and 806 ml of isopropyl acetate were stirred together in a two liter flask and cooled in a water bath. 504 ml of a 14% w/v solution of sodium hypochlorite (1.0 mole) was added to the stirred mixture over 40 minutes and at 30° C. Vigorous agitation was maintained during the addition and for a further 2 hours. The two-phase reaction mixture was then warmed to 50° C. to dissolve all solids. The organic phase was separated and the medium distilled off. The formed solid was recrystallized from 3 volumes of toluene to form 99 g of the desired product as a pale brown solid; m.p. 112° C.; yield 70%.

reactant | 2-carbamoyl-benzyl alcohol | 0.948 moles, 143 g | C(N)(=O)C1=C(CO)C=CC=C1 | C8H9NO2
reactant | sodium hypochlorite | 1.0 mole | Cl[O-].[Na+]
reactant | isopropyl acetate | 806 ml | C(C)(=O)OC(C)C | C5H10O2
catalyst | Adogen 464 | 6.7 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
catalyst | sodium bromide | 0.0226 moles, 2.3 g | [Br-].[Na+]
product | 2-oxo-dihydrobenzo[d][1,3]oxazine | 99 g, yield 70% | O=C1OCC2=C(N1)C=CC=C2 | C8H7NO2
